US03996381
EXAMPLE 7. N,N-DIMETHYL-3-CHLORO-4-(2-NITRO-1-BUTENYL)ANILINE
A solution of 36.8 g of 2-chloro-4-dimethylaminobenzaldehyde, 25 ml of 1-nitropropane and 20 g of ammonium acetate in 150 ml of 1-propanol is refluxed for 15 hours. The mixture is then poured into 1.5 l of water whereupon the compound separates as a viscous red oil. Recrystallization twice from aqueous acetic acid yields 5.0 g of the compound, melting at 90°-91°.

reactant | 2-chloro-4-dimethylaminobenzaldehyde | 36.8 g | ClC1=C(C=O)C=CC(=C1)N(C)C | C9H10ClNO
reactant | 1-nitropropane | 25 ml | [N+](=O)([O-])CCC | C3H7NO2
reactant | ammonium acetate | 20 g | C(C)(=O)[O-].[NH4+]
reactant | water | 1.5 l | O | H2O
solvent | 1-propanol | 150 ml | C(CC)O | C3H8O
product | N,N-DIMETHYL-3-CHLORO-4-(2-NITRO-1-BUTENYL)ANILINE | 5.0 g | CN(C1=CC(=C(C=C1)C=C(CC)[N+](=O)[O-])Cl)C | C12H15ClN2O2
